US08729061B2
2-(1-Aminocyclopropyl)-N-cyclopropyl-2-hydroxyacetamide
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, starting with tert-butyl 1-formylcyclopropylcarbamate in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | tert-butyl 1-formylcyclopropylcarbamate | C(=O)C1(CC1)NC(OC(C)(C)C)=O | C9H15NO3
product | 2-(1-Aminocyclopropyl)-N-cyclopropyl-2-hydroxyacetamide | NC1(CC1)C(C(=O)NC1CC1)O | C8H14N2O2
